US08232284B2
2-Fluoro-5-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]pyridine (305 mg, 1.10 mmol) and potassium tert-butoxide (140 mg, 1.24 mmol) were added to an N,N-dimethylacetamide solution (1 ml) of 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (120 mg, 0.50 mmol), and stirred at 180° C. for 14 hours under a nitrogen atmosphere in a sealed tube. The reaction solution was cooled with ice, then saline water was added, and extracted with chloroform. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Biotage, chloroform:methanol=100:3) to obtain N-(1-methyl-1H-pyrazol-3-yl)-6-({5-[3-(tetrahydro-2H-pyran-2-yloxy)prop oxy]pyridin-2-yl}oxy)quinazoline-4-amine (230 mg, yield: 97%) as a pale orange amorphous solid.

reactant | 2-Fluoro-5-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]pyridine | 1.10 mmol, 305 mg | FC1=NC=C(C=C1)OCCCOC1OCCCC1 | C13H18FNO3
reactant | potassium tert-butoxide | 1.24 mmol, 140 mg | CC(C)([O-])C.[K+]
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 0.50 mmol, 120 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
solvent | water | O | H2O
product | N-(1-methyl-1H-pyrazol-3-yl)-6-({5-[3-(tetrahydro-2H-pyran-2-yloxy)prop oxy]pyridin-2-yl}oxy)quinazoline-4-amine | 230 mg, yield: 97% | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC1=NC=C(C=C1)OCCCOC1OCCCC1 | C25H28N6O4
